US06057337
(2) 1-(2-(2-Hydroxyethyl)piperidino]-4-piperidino-1-butanone
Piperidine (0.83 ml) was added to the crude (0.975 g) of 4-chloro-1-[2-(2-hydroxyethyl)piperidino]-1-butanone. After being stirred for 3.5 hours at 70~80° C., the reaction mixture was concentrated, thereby yielding a crude (1.097 g) of the entitled compound as light yellow syrup.

reactant | Piperidine | 0.83 ml | N1CCCCC1 | C5H11N
reactant | 4-chloro-1-[2-(2-hydroxyethyl)piperidino]-1-butanone | 0.975 g | ClCCCC(=O)N1C(CCCC1)CCO | C11H20ClNO2
product | 1-(2-(2-Hydroxyethyl)piperidino]-4-piperidino-1-butanone | 1.097 g | OCCC1N(CCCC1)C(CCCN1CCCCC1)=O | C16H30N2O2
